US03950343
By following the procedure of Example 7 but replacing 1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline with an equivalent amount of 1,3,4,5-tetrahydro-1-propylpyrrolo[4,3,2-de]isoquinoline, described in Example 6, 1,3,4,5-tetrahydro-4-methyl-1-propylpyrrolo[4,3,2-de]isoquinoline is obtained.

reactant | 1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline | N1C=C2CNCC=3C=CC=C1C23 | C10H10N2
reactant | 1,3,4,5-tetrahydro-1-propylpyrrolo[4,3,2-de]isoquinoline | C(CC)N1C=C2CNCC=3C=CC=C1C23 | C13H16N2
product | 1,3,4,5-tetrahydro-4-methyl-1-propylpyrrolo[4,3,2-de]isoquinoline | CN1CC=2C=CC=C3C2C(C1)=CN3CCC | C14H18N2
